US07504508B2
To a solution of (2S,4R)-(4-amino-2-methyl-3,4-dihydro-2H-quinolin-1-yl)-(4-methoxy-phenyl)-methanone (1.00 equiv.) in DMF was added 4-nitrophenylboronic acid (2.00 equiv.), pyridine (2.50 equiv.) and copper(II)acetate (2.00 equiv.). The heterogeneous green mixture was stirred open to air for 1 h and then warmed to 60° C. and stirred over night (14 h). The mixture was then cooled to rt, poured into rapidly stirred ethyl acetate (150 mL); solids were removed by filtration through Celite®. The extracts were washed several times with water and then once with brine. The extracts were then dried over anhydrous magnesium sulfate, filtered, and concentrated under reduced pressure. The crude residue was purified by silica gel chromatography (95% methylene chloride/5% ethyl acetate) to afford (4-methoxy-phenyl)-[(2S,4R)-2-methyl-4-(4-nitro-phenylamino)-3,4-dihydro-2H-quinolin-1-yl]-methanone as a yellow solid.

reactant | (2S,4R)-(4-amino-2-methyl-3,4-dihydro-2H-quinolin-1-yl)-(4-methoxy-phenyl)-methanone | 1.00 equiv. | N[C@@H]1C[C@@H](N(C2=CC=CC=C12)C(=O)C1=CC=C(C=C1)OC)C | C18H20N2O2
reactant | 4-nitrophenylboronic acid | 2.00 equiv. | [N+](=O)([O-])C1=CC=C(C=C1)B(O)O | C6H6BNO4
reactant | pyridine | 2.50 equiv. | N1=CC=CC=C1 | C5H5N
reactant | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
solvent | DMF | CN(C)C=O | C3H7NO
catalyst | copper(II)acetate | 2.00 equiv. | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | (4-methoxy-phenyl)-[(2S,4R)-2-methyl-4-(4-nitro-phenylamino)-3,4-dihydro-2H-quinolin-1-yl]-methanone | COC1=CC=C(C=C1)C(=O)N1[C@H](C[C@H](C2=CC=CC=C12)NC1=CC=C(C=C1)[N+](=O)[O-])C | C24H23N3O4
